US05807927
340.9 g (2.6857 mol) of oxalyl chloride are added dropwise over the course of 18 minutes at an internal temperature of 19°-23° C. to a solution of 100.0 g (0.537 mol) of 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionic acid, synthesized as described in Example 6, 350 ml of methylene chloride and 1 ml of dimethyl formamide, and the mixture is subsequently stirred at room temperature for 5 hours and 10 minutes. When the reaction is complete, the reaction mixture is evaporated in a rotary evaporator, the residue is stripped 3 times at 50° C. under reduced pressure with 100 ml of toluene in each case, and the residue is dried at 60° C./0.1 mbar to constant weight, giving 106.1 g (97.3% of theory) of solid, brownish 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionyl chloride having the following analytical data:

reactant | oxalyl chloride | 2.6857 mol, 340.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionic acid | 0.537 mol, 100.0 g | CN1C(N(CC1=O)CCC(=O)O)=O | C7H10N2O4
reactant | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionyl chloride | CN1C(N(CC1=O)CCC(=O)Cl)=O | C7H9ClN2O3
